US08426587B2
A mixture of triethyl 2-fluoro-2-phosphonoacetate (1.07 mL, 5.2 mmol), tert-butyl (2-oxopropyl)carbamate (0.865 g, 5.0 mmol) and lithium hydroxide (0.21 g, 5.0 mmol) in THF (15 mL) was at room temperature for 16 hours. The mixture was cooled to 0° C. and lithium borohydride (0.22 g, 10.0 mmol) was added in portions. Stirring was continued at 0° C. for 1 hour and at room temperature for 2 hours. Saturated ammonium chloride solution (25 mL) was added to the mixture and the organic layer extracted with ethyl acetate (50 mL) and washed with brine (20 mL), dried over MgSO4, filtered and the solvent removed under reduced pressure to afford the crude product as a clear oil (0.90 g). Purification by flash chromatography eluting in 20% EtOAc in n-hexane afforded tert-butyl [(2E)-3-fluoro-4-hydroxy-2-methylbut-2-en-1-yl]carbamate (0.33 g, 30%) as white solid. 1H-NMR (400 MHz, CDCl3): δppm: 1.42 (9H, s), 1.68 (3H, d, J 3.2 Hz), 3.67 (2H, dd, J 6.4, 1.2 Hz), 3.80 (1H, t, J 6.4 Hz), 4.26 (2H, dd, J 24.8, 6.4 Hz), 4.98 (1H, brs).

reactant | triethyl 2-fluoro-2-phosphonoacetate | 5.2 mmol, 1.07 mL | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | tert-butyl (2-oxopropyl)carbamate | 5.0 mmol, 0.865 g | O=C(CNC(OC(C)(C)C)=O)C | C8H15NO3
reactant | lithium hydroxide | 5.0 mmol, 0.21 g | [OH-].[Li+]
reactant | lithium borohydride | 10.0 mmol, 0.22 g | [BH4-].[Li+]
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl [(2E)-3-fluoro-4-hydroxy-2-methylbut-2-en-1-yl]carbamate | 0.33 g, 30% | F/C(=C(/CNC(OC(C)(C)C)=O)\C)/CO | C10H18FNO3
